US09227970B2
d) 5-(2-Diethylamino-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid
Using 5-(2-diethylamino-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester, this compound was prepared following the same method as for the synthesis of 1-Methyl-5-(2-morpholino-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid. Off white solid (500 mg, 54%). MS: m/z=358 (M+H+).

reactant | 5-(2-diethylamino-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN(C1C(NC=1C=CC=2N(C1)N=C(N2)N(CC)CC)=O)C | C18H23N7O3
reactant | 1-Methyl-5-(2-morpholino-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | CN1N=CC(=C1C(NC=1C=CC=2N(C1)N=C(N2)N2CCOCC2)=O)C(=O)O | C16H17N7O4
product | 5-(2-Diethylamino-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid | C(C)N(C1=NN2C(C=CC(=C2)NC(=O)C2=C(C=NN2C)C(=O)O)=N1)CC | C16H19N7O3
